US07365085B2
c. 2-Phenyl-4-methylpentanoic acid
A solution of methyl 2-phenyl-4-methyl-4-pentenoic acid (850 mg, 4.15 mmole) in 10 mL of MeOHwas treated with 5 mL of 2.5N NaOH and heated to 50° for 30 minutes. The reaction was cooled, diluted with H2O and washed with Et2O. The aqueous phase was acified, and extracted with CH2Cl2. The extracts were washed with H2O, dried and the solvent removed. The residue was dissolved in 25 mL of EtOAc, and hydrogenated over a 10% Pd/C catalyst, at 1 atmosphere H2 pressure, for 2 hours. The catalyst was filtered and the solvent removed and gave the titled compound, 647 mg (81%). MS (ESI) 193 (MH+)

reactant | methyl 2-phenyl-4-methyl-4-pentenoic acid | 4.15 mmole, 850 mg | CC(C(=O)O)(CC(=C)C)C1=CC=CC=C1 | C13H16O2
reactant | NaOH | 2.5N, 5 mL | [OH-].[Na+]
solvent | H2O | O | H2O
product | 2-Phenyl-4-methylpentanoic acid | C1(=CC=CC=C1)C(C(=O)O)CC(C)C | C12H16O2
